US08470831B2
(E)-3-(3-Acetoxy-4-methoxyphenyl)acrylic acid (0.099 g, 0.420 mmol) was suspended in dry THF (8 ml). SOCl2 (0.037 ml, 0.504 mmol) was added and the mixture was stirred at RT for 1 h. The solvent was evaporated to dryness and the residue was dissolved in dry THF (8.00 ml). TEA (0.059 ml, 0.420 mmol) and 1-(3-methyl-3H-imidazol-4-ylmethyl)-1H-indol-7-ylamine (0.095 g, 0.420 mmol) were added. The mixture was stirred at RT for 18 hrs, heated at reflux for hrs and then at RT for 48 hrs. The solvent was removed in vacuo and the residue was partitioned between EtOAc (10 ml) and H2O (2×10 ml). Organic phase was dried over sodium sulphate and concentrated to dryness. The crude was charged onto a SCX cartridge and eluted firstly with MeOH and then with NH3/MeOH. The title (E)-3-(3-hydroxy-4-methoxy-phenyl)-N-[1-(3-methyl-3H-imidazol-4-ylmethyl)-1H-indol-7-yl]-acrylamide (56 mg) was obtained after column chromatography (eluent: DCM 100% to DCM/MeOH 98:2).

reactant | (E)-3-(3-Acetoxy-4-methoxyphenyl)acrylic acid | 0.420 mmol, 0.099 g | C(C)(=O)OC=1C=C(C=CC1OC)/C=C/C(=O)O | C12H12O5
reactant | SOCl2 | 0.504 mmol, 0.037 ml | O=S(Cl)Cl | Cl2OS
reactant | 1-(3-methyl-3H-imidazol-4-ylmethyl)-1H-indol-7-ylamine | 0.420 mmol, 0.095 g | CN1C=NC=C1CN1C=CC2=CC=CC(=C12)N | C13H14N4
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (E)-3-(3-hydroxy-4-methoxy-phenyl)-N-[1-(3-methyl-3H-imidazol-4-ylmethyl)-1H-indol-7-yl]-acrylamide | 56 mg | OC=1C=C(C=CC1OC)/C=C/C(=O)NC=1C=CC=C2C=CN(C12)CC=1N(C=NC1)C | C23H22N4O3
